US04324729
(a) 2-(trimethyl-silyloxy)-but-3-yne
The above compound was prepared in a 60% yield from 35 g of but-3-yn-2-ol and 50.4 g of trimethylsilyl chloride according to the method given in Can. J. Chem. 43, 2004 (1965); b.p. 117°/760 Torr.

reactant | but-3-yn-2-ol | 35 g | CC(C#C)O | C4H6O
reactant | trimethylsilyl chloride | 50.4 g | C[Si](C)(C)Cl | C3H9ClSi
product | 2-(trimethyl-silyloxy)-but-3-yne | 60% yield | C[Si](OC(C)C#C)(C)C | C7H14OSi
